US05491144
4-Anilino-5-(3,4-dihydroxy-anilino)-phthalimide
To a solution of 219 mg (0.56 mmol) of 4-anilino-5-(3,4-dimethoxy-anilino)-phthalimide in 5 ml of dichloromethane, a solution of 270 μl (2.8 mmol) boron tribromide in 3 ml of dichloromethane is added dropwise at RT. The reaction mixture is stirred for 5 hours at RT and then quenched with 5 ml of water, and the phases are separated. The water phase is extracted three times with ethyl acetate. The organic phases are combined and washed twice with water, dried over magnesium sulfate and concentrated by evaporation. Excluding light, the evaporation residue is chromatographed with ethylacetate/hexane2:1 on a silica gel column (precoated with 0.1 g of sodium ascorbate per g silica gel) that is cooled with ice-water (double jacket), and the productfractions are combined and concentrated by evaporation. Recrystallization from ethyl acetate/dichloromethane/hexane yields the title compound in theform of orange crystals, FAB-MS: 362 [M+ +H].

reactant | 4-anilino-5-(3,4-dimethoxy-anilino)-phthalimide | 0.56 mmol, 219 mg | N(C1=CC=CC=C1)C=1C=C2C(C(=O)NC2=O)=CC1NC1=CC(=C(C=C1)OC)OC | C22H19N3O4
reactant | boron tribromide | 2.8 mmol, 270 μl | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 4-Anilino-5-(3,4-dihydroxy-anilino)-phthalimide | N(C1=CC=CC=C1)C=1C=C2C(C(=O)NC2=O)=CC1NC1=CC(=C(C=C1)O)O | C20H15N3O4
